US05079363
A similar reaction to that described above starting from the compounds of formulae XXVII and XXVIII appears in J. Org. Chem. 48, pp. 2690-2695 (1983) in which an equivalent of 5,11-dihydroxy 5,11-dimethyl 10,11-dihydro 5H-pyrido[3,4-b]carbazole is made to react with about 40 equivalents of sodium borohydride for 20 hours in refluxing ethanol to give rise to 5,11 dimethyl 10H-pyrido[3,4-b]carbazole.

reactant | 5,11-dihydroxy 5,11-dimethyl 10,11-dihydro 5H-pyrido[3,4-b]carbazole | OC1(C2=C(C(C=3NC4=CC=CC=C4C13)(C)O)C=NC=C2)C | C17H16N2O2
reactant | sodium borohydride | about 40 equivalents | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 5,11 dimethyl 10H-pyrido[3,4-b]carbazole | CC1=C2C(=C(C=3NC4=CC=CC=C4C13)C)C=NC=C2 | C17H14N2
